US04847273
A solution of 3.67 g (0.01 mol) of α-(cyclohexylcarbonyl)-N,N-dimethyl-3-nitrostyrenesulfonamide in 30 ml of isopropanol is treated with 1.15 g (0.01 mol) of 3-aminocrotonic acid methyl ester and 1.16 g (0.005 mol) of DL-camphor-10-sulfonic acid in accordance with the procedure described in Example 1. After chromatography on silica gel with methylene chloride/ethyl acetate (9:1) as the elution agent the crude product is recrystallized from acetonitrile. There are obtained 1.5 g (32%) of 6-cyclohexyl-5-(dimethylsulfamoyl)-1,4-dihydro-2-methyl-4-(3-nitrophenyl)nicotinic acid methyl ester, m.p. 185°-188°, as a colorless crystalline powder.

reactant | α-(cyclohexylcarbonyl)-N,N-dimethyl-3-nitrostyrenesulfonamide | 0.01 mol, 3.67 g | C1(CCCCC1)C(=O)C(=CS(=O)(=O)N(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C17H22N2O5S
reactant | 3-aminocrotonic acid methyl ester | 0.01 mol, 1.15 g | COC(\C=C(\C)/N)=O | C5H9NO2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 6-cyclohexyl-5-(dimethylsulfamoyl)-1,4-dihydro-2-methyl-4-(3-nitrophenyl)nicotinic acid methyl ester | 1.5 g, 32% | COC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])S(N(C)C)(=O)=O)C1CCCCC1)C)=O | C22H29N3O6S
